US05583227
In accordance with the procedure of the step 1 of Example 10, 21.8 g of 1-hexyn-3-ol was allowed to react with 37.2 g of 2-bromoethyl ethyl ether to obtain 16.9 g of 3-(2-ethoxyethoxy)-1-hexyne.

reactant | 1-hexyn-3-ol | 21.8 g | C#CC(CCC)O | C6H10O
reactant | 2-bromoethyl ethyl ether | 37.2 g | C(C)OCCBr | C4H9BrO
product | 3-(2-ethoxyethoxy)-1-hexyne | 16.9 g | C(C)OCCOC(C#C)CCC | C10H18O2
